US08956999B2
To a solution of 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanol (335 mg, 1.4 mmol) in anhydrous tetrahydrofuran (5 ml) under nitrogen is added sodium hydride, 60% dispersion in mineral oil, (48 mg, 1.2 mmol) and the resulting yellow suspension is allowed to stir at room temperature for 1 hour. A solution of 5-chloro-2,2,6,6-tetramethyl-6H-pyran-3-one (189 mg, 1 mmol) in anhydrous tetrahydrofuran (2 ml) is then added and reaction is allowed to stir at room temperature for 17 hours. The crude reaction mixture is purified by flash chromatography on silica gel to give 5-{1-[2-(4-chlorophenyl)thiazol-5-yl]ethoxy}-2,2,6,6-tetramethyl-6H-pyran-3-one (288 mg).

reactant | 1-[2-(4-chlorophenyl)thiazol-5-yl]ethanol | 1.4 mmol, 335 mg | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)O | C11H10ClNOS
reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-2,2,6,6-tetramethyl-6H-pyran-3-one | 1 mmol, 189 mg | ClC1=CC(C(OC1(C)C)(C)C)=O | C9H13ClO2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-{1-[2-(4-chlorophenyl)thiazol-5-yl]ethoxy}-2,2,6,6-tetramethyl-6H-pyran-3-one | 288 mg | ClC1=CC=C(C=C1)C=1SC(=CN1)C(C)OC1=CC(C(OC1(C)C)(C)C)=O | C20H22ClNO3S
